US08563717B2
6-Amino-2-(butyloxy)-9-[2-(1-propyl-4-piperidinyl)ethyl]-7,9-dihydro-8H-purin-8-one
1-Iodopropane (0.1 mmol) was weighed into a vial and an aliquot (0.4 ml, 0.12 mmol) of a solution of 2-(butyloxy)-8-(methyloxy)-9-[2-(4-piperidinyl)ethyl]-9H-purin-6-amine (0.418 g mg, 1.2 mmol) suspended in DMF (4.8 ml) was added to each tube. DIPEA (40 μl, 0.229 mmol) was added finally to each tube, the tube was heated at 50° C. for 18 hours. An additional portion of 1-iodopropane (15 μl) and DIPEA (20 μl) was added to each tube and heating continued for a further 18 hours. DMSO (200 uL) was added and the solution and the mixture purified by Mass Directed AutoPrep (Method A). The solvent was evaporated in vacuo using the Genevac. The residue was redissolved in 4M HCl/dioxane (0.2 ml), capped and stood at room temperature for 18 hours. The solvent was dried under a stream of nitrogen in the Radleys blowdown apparatus. The material was redissolved in methanol (0.5 ml), and applied to top of 0.1 g aminopropyl SPE (preconditioned with methanol, 1.5 ml). The cartridge was eluted with methanol (1.5 ml) and the solvent was removed to give the title compound (5.1 mg).

reactant | 1-Iodopropane | 0.1 mmol | ICCC | C3H7I
reactant | 2-(butyloxy)-8-(methyloxy)-9-[2-(4-piperidinyl)ethyl]-9H-purin-6-amine | 1.2 mmol, 0.418 g | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCC1CCNCC1)OC)N | C17H28N6O2
reactant | DIPEA | 0.229 mmol, 40 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-iodopropane | 15 μl | ICCC | C3H7I
reactant | DIPEA | 20 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | DMSO | 200 uL | CS(=O)C | C2H6OS
solvent | DMF | 4.8 ml | CN(C)C=O | C3H7NO
product | 6-Amino-2-(butyloxy)-9-[2-(1-propyl-4-piperidinyl)ethyl]-7,9-dihydro-8H-purin-8-one | 5.1 mg | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCC1CCN(CC1)CCC)=O | C19H32N6O2
